US04627871
27.8 g (0.2 mole) of 4-nitro-phenol were dissolved in 100 ml of dimethylsulphoxide. After addition of 11.2 g (0.2 mole) of powdered potassium hydroxide, the mixture was stirred at room temperature for 30 minutes and 28.5 g (0.2 mole) of 2-chloro-4,6-dimethyl-pyrimidine were then added. The mixture was heated at 120° C. for 6 hours and then cooled, stirred with one liter of water and filtered off with suction. The crystals filtered off with suction were dried in air. 38 g (77.5% of theory) of 2-(4-nitrophenoxy)-4,6-dimethyl-pyrimidine were obtained.

reactant | 4-nitro-phenol | 0.2 mole, 27.8 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | potassium hydroxide | 0.2 mole, 11.2 g | [OH-].[K+]
reactant | 2-chloro-4,6-dimethyl-pyrimidine | 0.2 mole, 28.5 g | ClC1=NC(=CC(=N1)C)C | C6H7ClN2
reactant | water | one liter | O | H2O
solvent | dimethylsulphoxide | 100 ml | CS(=O)C | C2H6OS
product | 2-(4-nitrophenoxy)-4,6-dimethyl-pyrimidine | 38 g, 77.5% | [N+](=O)([O-])C1=CC=C(OC2=NC(=CC(=N2)C)C)C=C1 | C12H11N3O3
